US07645789B2
To a solution of N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide (97 mg, 0.20 mmol) in DMSO (1 mL) was added Dess-Martin periodinane (130 mg, 0.30 mmol). The mixture was stirred at room temperature for 3 h. The solid was filtered off and washed with EtOAc. The filtrate was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc twice and the combined organic layers were washed with brine and dried over MgSO4. After the removal of solvent, the residue was purified by preparative TLC to yield 3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-1-yl)-2-oxopropanoic acid that was used without further purification.

reactant | N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-1H-indol-5-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide | 0.20 mmol, 97 mg | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC(CO)O | C26H28F2N2O5
reactant | Dess-Martin periodinane | 0.30 mmol, 130 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-(2-tert-butyl-5-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-1-yl)-2-oxopropanoic acid | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC(C(=O)O)=O | C26H24F2N2O6
